US09029371B2
To a solution of [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dichloro-phenyl)-amine (0.72 g; 1.74 mmol) in 1,2-dichloroethane (5 mL) was added, drop wise, ACE-Cl (0.40 mL; 3.66 mmol) at 0° C. The resulting mixture was stirred at room temperature, overnight, and subsequently concentrated in vacuo. To the residue was added toluene and the mixture was concentrated in vacuo. This last step was repeated twice. To the final residue was added MeOH (5 mL), and this mixture was stirred overnight at RT. Once more the mixture was concentrated in vacuo. The residue was partitioned between EtOAc and 2 M Aqueous NaOH. The layers were separated, and the organic layer dried (Na2SO4), filtered, and concentrated in vacuo to afford (2,6-dichloro-phenyl)-(4-morpholin-2-yl-phenyl)-amine (0.34 g); which was used as such.

reactant | [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dichloro-phenyl)-amine | 1.74 mmol, 0.72 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)NC1=C(C=CC=C1Cl)Cl | C23H22Cl2N2O
reactant | ACE-Cl | 3.66 mmol, 0.40 mL | CC(OC(=O)Cl)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | (2,6-dichloro-phenyl)-(4-morpholin-2-yl-phenyl)-amine | 0.34 g | ClC1=C(C(=CC=C1)Cl)NC1=CC=C(C=C1)C1CNCCO1 | C16H16Cl2N2O
